US07534797B2
3-Methylene-cyclobutanecarboxylic acid (3-chloropyrazin-2-ylmethyl)-amide
C-(3-Chloropyrazin-2-yl)-methylamine bis-HCl (1.0 g, 4.62 mmol), N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide (EDC) (1.31 g, 6.47 mmol, 1.4 eq.), 4-dimethylaminopyridine (DMAP) (0.141 g, 1.15 mmol, 0.25 eq.), and diisopropylethylamine (DIPEA) (2.42 mL, 1.79 g, 13.9 mmol, 3.0 eq.) were dissolved in anhydrous CH2Cl2 (25 mL). To this solution, a solution of 3-methylenecyclobutanecarboxylic acid (0.622 g, 5.54 mmol, 1.2 eq.) in anhydrous CH2Cl2 (25 mL) was added under N2 and the reaction was allowed to stir overnight at rt. Reaction mixture was concentrated in vacuo and the resulting residue was dissolved in EtOAc, washed with water (2×), NaHCO3 (1×), water (1×), and brine (1×), dried over Na2SO4, filtered, and concentrated in vacuo, giving crude title compound, as a brown oil. The crude material was purified by chromatography on silica gel [Jones Flashmaster, 20 g/70 mL cartridge, eluting with EtOAc:Hex 10%→20%→40%→70%], affording the title compound as a pale yellow solid. Additionally, the title compound could be prepared by the following route: 1,1′-Carbonyldiimidazole (CDI) (0.824 g, 5.08 mmol, 1.1 eq.) and 3-methylenecyclobutanecarboxylic acid (0.570 g, 5.08 mmol, 1.1 eq.) were dissolved in anhydrous THF (12 mL) and allowed to stir at 60° C. for 2 h. A solution of C-(3-chloropyrazin-2-yl)-methylamine bis-HCl (1.0 g, 4.62 mmol) and diisopropylethylamine (DIPEA) (2.42 mL, 1.79 g, 13.9 mmol, 3.0 eq.) in anhydrous CH2Cl2 (13 mL) was added to the acid mixture and the reaction was allowed to stir at 60° C., under N2, overnight. The reaction mixture was concentrated in vacuo and the resulting residue was dissolved in EtOAc, washed with NaHCO3 (2×) and brine (1×), dried over Na2SO4, filtered, and concentrated in vacuo, giving crude title compound, as a brown oil. The crude material was purified by chromatography on silica gel [Jones Flashmaster, 20 g/70 mL cartridge, eluting with EtOAc:Hex 10%→20%→40%→70%], affording the title compound as a pale yellow solid; 1H NMR (CDCl3, 400 MHz) δ 2.86-2.96 (m, 2H), 3.03-3.19 (m, 3H), 4.72 (dd, J=4.4, 0.8 Hz, 2H), 4.79-4.84 (m, 2H), 6.78 (s, —NH), 8.32-8.34 (m, 1H), 8.46 (d, J=2.8 Hz, 1H); MS (ES+): m/z 238.19 (90) [MH+]; HPLC: tR=2.67 min (OpenLynx, polar—7min).

reactant | 1,1′-Carbonyldiimidazole | 5.08 mmol, 0.824 g, 1.1 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methylenecyclobutanecarboxylic acid | 5.08 mmol, 0.570 g, 1.1 eq. | C=C1CC(C1)C(=O)O | C6H8O2
reactant | C-(3-chloropyrazin-2-yl)-methylamine bis-HCl | 4.62 mmol, 1.0 g | Cl.Cl.ClC=1C(=NC=CN1)CN
reactant | diisopropylethylamine | 13.9 mmol, 2.42 mL, 1.79 g, 3.0 eq. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 13 mL | C(Cl)Cl | CH2Cl2
product | 3-Methylene-cyclobutanecarboxylic acid (3-chloropyrazin-2-ylmethyl)-amide | ClC=1C(=NC=CN1)CNC(=O)C1CC(C1)=C | C11H12ClN3O
